US06214877B1
step 5 5′-Butoxy-[1,1′;3′,1″]terphenyl-2′-ol
To a stirred solution of (2′-methoxyethoxymethoxy-[1,1′;3′1″]terphenyl-5′-yloxy)butane (0.237 g, 0.583 mmol) in CH2Cl2 (6 mL) at room temperature was added anhydrous ZnBr2 (0.656 g, 2.92 mmol). After 18 h at this temperature, the resulting mixture was diluted with EtOAc (100 mL). The organic layer was washed with sat. aq. NaHCO3 (10 mL) and brine (10 mL) and then dried (MgSO4). After concentration, the residue was purified by preparatory plate chromatography (10% EtOAc/petroleum ether) to afford the product (0.172 g, 92%) as a solid; 1H NMR (CDCl3) δ0.97 (t, J=10.9 Hz, 3H), 1.39-1.60 (m, 2H), 1.68-1.87 (m, 2H), 3.97 (t, J=9.5 Hz, 2H), 5.05 (s, 1H), 6.87 (s, 2H), 7.32-7.62 (m, 10H); mass spectrum [(+) ESI], m/z 319 (M+H)+, 341 (M+Na)+.

reactant | (2′-methoxyethoxymethoxy-[1,1′;3′1″]terphenyl-5′-yloxy)butane | 0.583 mmol, 0.237 g | COCCOCOC1=C(C=C(C=C1C1=CC=CC=C1)OCCCC)C1=CC=CC=C1 | C26H30O4
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
catalyst | ZnBr2 | 2.92 mmol, 0.656 g | [Zn+2].[Br-].[Br-]
product | 5′-Butoxy-[1,1′;3′,1″]terphenyl-2′-ol | 0.172 g, 92% | C(CCC)OC=1C=C(C(=C(C1)C1=CC=CC=C1)O)C1=CC=CC=C1 | C22H22O2
